US06887896B1
(2E,4E,6E)-7-(3-Ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-6-fluoro-3-methyl-octa-2,4.6-trienoic acid (Compound A-76)
To a solution of ethyl (2E,4E,6E)-7-(3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-6-fluoro-3-methyl-octa-2,4,6-trienoate (Compound A-67, 4.0 mg, 0.01 mmol) in ethanol (0.2 mL) and THF (1 mL) was added 1M NaOH (0.05 mL, 0.05 mmol). The mixture was heated to 60° C. for 5 h and was cooled to room temperature, acidified with 1M HCl, extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel, 10% ethyl acetate in hexanes) to give the title compound as a white solid.

reactant | ethyl (2E,4E,6E)-7-(3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-6-fluoro-3-methyl-octa-2,4,6-trienoate | 0.01 mmol, 4.0 mg | C(C)OC=1C(=CC=2C=CCC(C2C1)(C)C)/C(=C(\C=C\C(=C\C(=O)OCC)\C)/F)/C | C25H31FO3
reactant | NaOH | 0.05 mmol, 1M, 0.05 mL | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 0.2 mL | C(C)O | C2H6O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (2E,4E,6E)-7-(3-Ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-6-fluoro-3-methyl-octa-2,4.6-trienoic acid | C(C)OC=1C(=CC=2C=CCC(C2C1)(C)C)/C(=C(\C=C\C(=C\C(=O)O)\C)/F)/C | C23H27FO3
